US04220778
6 Parts of biphenyl-2-carboxylic acid is added to 15 parts by volume of thionyl chloride and the mixture is stirred at ambient temperature for about 22 hours. The thionyl chloride is distilled off under reduced pressure, then benzene is added and distilled off under reduced pressure leaving an oil. The oil is dissolved in 15 parts by volume of methylene chloride and added dropwise with stirring to a solution of 5.5 parts of 2-amino-2-methylpropanol in 15 parts by volume of methylene chloride at 0° C. The resultant mixture is stirred at ambient temperature overnight, filtered and the filtrate washed with water, twice with 25 parts by volume of 5% hydrochloric acid, twice with 25 parts by volume of 5% sodium hydroxide, and water. The filtrate is then dried over anhydrous magnesium sulfate and the solvent removed under reduced pressure to give N-(2-hydroxy-1,1-dimethylethyl)-2-biphenylcarboxamide, as white crystals, melting at about 72.5°-74° C. after recrystallization from ether.

reactant | biphenyl-2-carboxylic acid | C=1(C(=CC=CC1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-2-methylpropanol | NC(CO)(C)C | C4H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxy-1,1-dimethylethyl)-2-biphenylcarboxamide | OCC(C)(C)NC(=O)C=1C(=CC=CC1)C1=CC=CC=C1 | C17H19NO2
